US05242895
Preparation of methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[(1-ethoxycarbonylethyl)oxyiminomethyl)benzoate (Compound No. 22)
2.0 g of methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-hydroxyiminomethylbenzoate, 3 ml of ethyl 2-bromopropionate and 0.9 g of silver oxide (I) were place in a 50 ml eggplant type flask, and were allowed to stand for one night at room temperature. 10 ml of acetone and 10 g of silica gel were added to the resultant reaction liquor, and the acetone was distilled off under reduced pressure. The resultant product was purified by column chromatography to obtain 0.7 g of the aimed compound (refractive index=1.5261) at a yield of 27%.

reactant | methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-hydroxyiminomethylbenzoate | 2.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=C1)C=NO | C15H15N3O6
reactant | ethyl 2-bromopropionate | 3 ml | BrC(C(=O)OCC)C | C5H9BrO2
catalyst | silver oxide | 0.9 g | [Ag]=O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[(1-ethoxycarbonylethyl)oxyiminomethyl)benzoate | 0.7 g, yield of 27% | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=C1)C=NOC(C)C(=O)OCC | C20H23N3O8
